US04296239
Preparation 6: 8-Chloro-5,6-dihydro-1-methyl-4H-s-triazolo[4,3-a][1,4]benzodiazepin-6-one
A stirred solution of 5-chloro-2-[3-(chloromethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzoic acid methyl ester (VIb)(300 mg., 1 mmole) in tetrahydrofuran (THF) (10 ml.) was cooled, under nitrogen, in an ice bath and treated with 8 ml. of a saturated solution of ammonia in methanol. The mixture was kept in the ice bath for 20 minutes and at ambient temperature for one hour. At this time there was no reaction by thin layer chromatography (TLC). The mixture was therefore treated with potassium iodide (166 mg., 1 mmole) and kept at ambient temperature for 18 hours. It was concentrated in vacuo, and the residue was mixed with water and extracted with chloroform. The extract was washed with brine, dried (Na2SO4) and concentrated. The residue was crystallized from a methanol/ethyl acetate mixture to give 0.169 g., melting point 253.5°-255.5° and 0.026 g., melting point 251°-252.5°. The mixture melting point with that of an authentic sample of the titled compound (VIIa) was 261.5°-264.5°. The first crop was recrystallized from a methanol/ethyl acetate mixture, seeding with an authentic sample, to give 0.110 g., melting point 262°-264°. This was identical to the authentic sample of (VIIa) by ir comparison.

reactant | 5-chloro-2-[3-(chloromethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzoic acid methyl ester | 1 mmole, 300 mg | COC(C1=C(C=CC(=C1)Cl)N1C(=NN=C1C)CCl)=O | C12H11Cl2N3O2
reactant | ammonia | N | H3N
reactant | potassium iodide | 1 mmole, 166 mg | [I-].[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 8-Chloro-5,6-dihydro-1-methyl-4H-s-triazolo[4,3-a][1,4]benzodiazepin-6-one | ClC=1C=CC2=C(C(NCC=3N2C(=NN3)C)=O)C1 | C11H9ClN4O
